US08536179B2
d) 6-Bromo-1-(sec-butyl)-3-methyl-1H-indole-4-carboxylic acid
Methyl 6-bromo-1-(sec-butyl)-3-methyl-1H-indole-4-carboxylate (3.24 g, 9.99 mmol) was dissolved in methanol (30 mL) and tetrahydrofuran (THF) (7 mL). The contents were stirred for 5 min., and then aq. 3N NaOH (19.99 mL, 60.0 mmol) was added via addition funnel over 3 min. The contents rapidly became a yellow suspension and were stirred at room temperature for 65 h. The volatiles were removed in vacuo and the residue dissolved in water (60 mL). The contents were washed with ether (1×50 mL). The aq layer was cooled in an ice bath and adjusted to pH 3-4 with 1M HCl, from which an oily residue precipitated. The contents were extracted with EtOAc (2×60 mL). The combined organic layers were dried over magnesium sulfate, filtered through celite, and concentrated in vacuo. The residue obtained was treated with TBME, concentrated in vacuo, and then dried under hi vacuum to afford a yellow foam as 3.08 g (93%). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.70 (t, J=7.33 Hz, 3H), 1.39 (d, J=6.82 Hz, 3H), 1.71-1.86 (m, 2H), 2.30 (s, 3H), 4.48-4.62 (m, 1H), 7.40-7.49 (m, 2H), 7.96 (d, J=1.77 Hz, 1H), 12.99 (s, 1H); LCMS=310.0/312.0 (MH+).

reactant | Methyl 6-bromo-1-(sec-butyl)-3-methyl-1H-indole-4-carboxylate | 9.99 mmol, 3.24 g | BrC=1C=C(C=2C(=CN(C2C1)C(C)CC)C)C(=O)OC | C15H18BrNO2
reactant | NaOH | 60.0 mmol, 3N, 19.99 mL | [OH-].[Na+]
reactant | TBME | CC(C)(C)OC | C5H12O
solvent | methanol | 30 mL | CO | CH4O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 6-Bromo-1-(sec-butyl)-3-methyl-1H-indole-4-carboxylic acid | BrC=1C=C(C=2C(=CN(C2C1)C(C)CC)C)C(=O)O | C14H16BrNO2
